US08748624B2
STEP A: ethyl 3-(5-(2-formyl-4-methoxyphenyl)picolinamido)propanoate
Ethyl 3-(5-bromopicolinamido)propanoate (1.0 g, 3.3 mmol), (2-formyl-4-methoxyphenyl)boronic acid (896 mg, 5.0 mmol), Pd(dppf)Cl2 (364 mg, 0.5 mmol), and K2CO3 (918 mg, 6.6 mmol) were dissolved in 1,4-dioxane (20 mL) and water (5 mL) and heated to 80° C. After 16 h the resulting mixture was cooled to room temperature, diluted with EtOAc washed with water and brine, dried (Na2SO4), concentrated and purified via column chromatography to yield the title compound.

reactant | Ethyl 3-(5-bromopicolinamido)propanoate | 3.3 mmol, 1.0 g | BrC=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C11H13BrN2O3
reactant | (2-formyl-4-methoxyphenyl)boronic acid | 5.0 mmol, 896 mg | C(=O)C1=C(C=CC(=C1)OC)B(O)O | C8H9BO4
reactant | K2CO3 | 6.6 mmol, 918 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 5 mL | O | H2O
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.5 mmol, 364 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | ethyl 3-(5-(2-formyl-4-methoxyphenyl)picolinamido)propanoate | C(=O)C1=C(C=CC(=C1)OC)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C19H20N2O5
